US08703776B2
To a solution of 1-(2,3,6-trifluorophenyl)ethanone (1.74 g, 10 mmol) in THF (10 mL) was added methyl magnesium bromide (7 mL, 21 mmol) at 0° C. The mixture was stirred at 0° C. for 1 hour. The reaction was quenched by addition of saturated aqueous ammonium chloride and was then extracted with EtOAc. The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel to afford 2-(2,3,6-trifluorophenyl)propan-2-ol. (74).

reactant | 1-(2,3,6-trifluorophenyl)ethanone | 10 mmol, 1.74 g | FC1=C(C(=CC=C1F)F)C(C)=O | C8H5F3O
reactant | methyl magnesium bromide | 21 mmol, 7 mL | C[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2,3,6-trifluorophenyl)propan-2-ol | FC1=C(C(=CC=C1F)F)C(C)(C)O | C9H9F3O
